US07220744B2
a) 4-(5-Hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 179 mmol 30% aqueous hydrogen peroxide in 60 ml water was added 1 N aqueous sodium hydroxide solution until the pH was 9. The reaction mixture was then cooled to 10° C. and 163 mmol acrolein was added dropwise. Further amounts of 1 N aqueous sodium hydroxide solution were added during the addition in order to maintain the pH of the reaction mixture between pH 8 and 9. The mixture was stirred for 30 min at 0° C. and then 40.8 mmol thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester (prepared from tert-butyl 1-piperazinecarboxylate, 1,1′-thiocarbonyldiimidazole and ammonia according to the procedure of J. Med. Chem. 1998, 41, 5037–5054) was added. To the resulting suspension was added 25 ml ethanol and the mixture was heated at 80° C. for 30 min. The resulting solution was diluted with ethyl acetate/tetrahydrofuran (1:1) and the mixture was washed twice with brine. The organic phase was dried over sodium sulphate and concentrated in vacuo to afford the title compound as a yellow oil (yield 99%). MS (m/e): 300.3 (M+H+, 100%).

reactant | hydrogen peroxide | 179 mmol | OO | H2O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | acrolein | 163 mmol | C(=O)C=C | C3H4O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | 40.8 mmol | C(C)(C)(C)OC(=O)N1C(CNCC1)C(N)=S | C10H19N3O2S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,1′-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | ammonia | N | H3N
solvent | water | 60 ml | O | H2O
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(5-Hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | yield 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)CO | C13H21N3O3S
